US06803362B2
(4-Methyl-piperazin-1-yl)-(5-nitro-1H-indol-2-yl)-methanone
A mixture of 5-nitroindole-2-carboxylic acid (4.38 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 4.89 g) in dichloromethane (150 mL) was treated with N-methylpiperazine (2.83 mL) and stirred at ambient temperature for 16 h. The reaction mixture was poured into dichloromethane (200 mL), washed with water, saturated sodium hydrogencarbonate solution and then brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via silica gel chromatography (0-10% 2 M ammonia in methanol/dichloromethane) to give the title compound (1.8 g). 1H NMR (400 MHz, CDCl3): δ 10.97 (br s, 1H), 8.58 (d, J=2.15 Hz, 1H), 8.11 (dd, J=2.15, 7.04 Hz, 1H), 7.44 (d, J=9.00 Hz, 1H), 6.89 (s, 1H), 3.95 (br m, 4H), 2.52 (t, J=4.89 Hz, 4H), 2.34 (s, 3H). MS (electrospray): exact mass calculated for C14H16N4O3, 288.12; m/z found, 289.1 [M+H]+.

reactant | 5-nitroindole-2-carboxylic acid | 4.38 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.89 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylpiperazine | 2.83 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (4-Methyl-piperazin-1-yl)-(5-nitro-1H-indol-2-yl)-methanone | 1.8 g | CN1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C14H16N4O3
